US08492577B2
WO 2008/007391 describes a process for the preparation of valsartan which involves the conversion of N-[(2′-Cyano[1,1-biphenyl]-4-yl)methyl]-L-valine methylester to N-[[2′-(1H-tetrazol-5yl)[1,1′-biphenyl-4-yl]methyl]-L-valine in the presence of mixture of metal azide and alkyl tin halide followed by the condensation of N-[[2′-(1H-tetrazol-5yl)[1,1-b]phenyl-4-yl]methyl]-L-valine with 5-Phenylthiovaleric acid derivative to give N-(5-(phenylthio)-1-oxopentyl)-N-[[2′-(1H-tetrazol-5-yl)[1,1-biphenyl]-4-yl]methyl]-L-valine and desulfurisation with transition metal halide hydrate to give valsartan.

reactant | valsartan | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
reactant | N-[(2′-Cyano[1,1-biphenyl]-4-yl)methyl]-L-valine methylester | COC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C20H22N2O2
reactant | [2′-(1H-tetrazol-5yl)[1,1′-biphenyl-4-yl]methyl]-L-valine | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN[C@@H](C(C)C)C(=O)O | C19H21N5O2
reactant | azide | [N-]=[N+]=[N-]
reactant | 5-Phenylthiovaleric acid | C1(=CC=CC=C1)CCCCC(=S)O | C11H14OS
product | N-(5-(phenylthio)-1-oxopentyl)-N-[[2′-(1H-tetrazol-5-yl)[1,1-biphenyl]-4-yl]methyl]-L-valine | C1(=CC=CC=C1)SCCCCC(=O)N([C@@H](C(C)C)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C30H33N5O3S
